US07381719B2
Part B: (±)-6-{4-[2-(2-Hydroxycyclohexylamino)ethyl]phenoxy}nicotinamide
Heat a mixture of 4-[2-(2-hydroxycyclohexylamino)ethyl]phenol (152.6 mg, 0.65 mmol), 6-chloronicotinamide (84.6 mg, 0.54 mmol) and K2CO3 (186.7 mg, 1.35 mmol) in 3:1 DMF/toluene (4.0 mL) at 160° C. for 2 hours. Cool to room temperature and filter with thorough MeOH and CH2Cl2 wash. Concentrate the filtrate and remove DMF azeotropically with xylenes. Purify by flash chromatography, eluting with 75:15:10 EtOAc/CH2Cl2/2.0 M NH3 in MeOH (56.3 mg, 29%): MS ES+ 356.1 (M+H)+, HRMS calcd for C20H26N3O3 356.1974 (M+H)+, found 356.1966, time 0.37 min; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=1.23 min, 100% purity; Chiralpak AD 225 min, 60:40 EtOH/heptane at 1.0 mL/min, tR=5.55 min, 50% and tR=7.17 min, 50%; Anal. Calcd for C20H25N3O3.0.2CH2Cl2.0.2MeOH: C, 64.68; H, 6.97; N, 11.09. Found: C, 64.46; H, 6.84; N, 11.11.

reactant | 4-[2-(2-hydroxycyclohexylamino)ethyl]phenol | 0.65 mmol, 152.6 mg | OC1C(CCCC1)NCCC1=CC=C(C=C1)O | C14H21NO2
reactant | 6-chloronicotinamide | 0.54 mmol, 84.6 mg | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 1.35 mmol, 186.7 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF toluene | 4.0 mL | CN(C)C=O.C1(=CC=CC=C1)C
product | (±)-6-{4-[2-(2-Hydroxycyclohexylamino)ethyl]phenoxy}nicotinamide | OC1C(CCCC1)NCCC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C20H25N3O3
